US07414063B2
7-phenyl-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide di-hydrochloride
A 4N HCl solution in 1,4-dioxane (22 mL) is added to a stirred solution of [2-(7-phenyl-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester (2.50 g, 5.85 mmol) in CH2Cl2 (40 mL)/CH3OH (6 mL) at ambient temperature under nitrogen. The resultant white suspension is stirred for 4 hours. At filtration and vacuum drying at 50° C., 2.34 g (5.85 mmol, 100% yield) of the title compound is obtained as a white solid. ESIMS: m/z 328 (M+H)+.

reactant | HCl | 4N | Cl | ClH
reactant | [2-(7-phenyl-isoquinoline-5-sulfonylamino)-ethyl]-carbamic acid tert-butyl ester | 5.85 mmol, 2.50 g | C(C)(C)(C)OC(NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1)=O | C22H25N3O4S
reactant | CH3OH | 6 mL | CO | CH4O
solvent | 1,4-dioxane | 22 mL | O1CCOCC1 | C4H8O2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 7-phenyl-isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide di-hydrochloride | 5.85 mmol, 2.34 g, 100% yield | Cl.Cl.NCCNS(=O)(=O)C=1C=2C=CN=CC2C=C(C1)C1=CC=CC=C1 | InChI=1S/C17H17N3O2S.2ClH/c18-7-9-20-23(21,22)17-11-14(13-4-2-1-3-5-13)10-15-12-19-8-6-16(15)17;;/h1-6,8,10-12,20H,7,9,18H2;2*1H
